US09056859B2
To a solution of 5-bromo-2-benzofuran-1(3H)-one (5.00 g, 23.5 mmol) at 0° C. in TfOH (100 mL) was added NIS (5.55 g, 24.6 mmol). The mixture was stirred at room temperature over night; LC analysis of the reaction mixture indicated completion of the reaction. The reaction mixture was then poured slowly into ice-water (1 L) with stirring. To the solution was then added EtOAc (500 mL) and subsequently stirred for 10 min. The mixture was filtered and the organic layer separated. The aqueous layer was extracted with EtOAc (2×200 mL). The combined organic layers were washed with water (500 mL), brine (500 mL), dried over Na2SO4, filtered, concentrated to dryness; it was absorbed into silica gel and separated with the solvent systems of (hexanes/EtOAc=1/1) to yield 5-bromo-4-iodo-2-benzofuran-1(3H]-one. 1H-NMR (400 MHz, CDCl3) δ ppm 7.80 (d, J=7.8 Hz, 1H), 7.74 (d, J=8.5 Hz, 1H), 5.07 (s, 2H).

reactant | 5-bromo-2-benzofuran-1(3H)-one | 23.5 mmol, 5.00 g | BrC1=CC2=C(C(OC2)=O)C=C1 | C8H5BrO2
reactant | NIS | 24.6 mmol, 5.55 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | TfOH | 100 mL | S(=O)(=O)(C(F)(F)F)O | CHF3O3S
product | 5-bromo-4-iodo-2-benzofuran-1(3H]-one | BrC1=C(C2=C(C(OC2)=O)C=C1)I | C8H4BrIO2
